US06765012B2
Diethyl-[3-(4-nitro-phenoxy)-propyl]-amine
A solution of 3-diethylamino-1-propanol (2.97 mL, 20 mmol) in THF (40 mL) at 0° C. is treated potassium tert-butoxide (2.36 g, 1.05 equiv.) in one portion. The reaction mixture is stirred at 0° C. for 5 min during which time it becomes reddish brown. Neat 1-fluoro-4-nitrobenzene (2.82 g, 1 equiv.) is added dropwise and the ice-bath is removed. The reaction mixture is stirred at room temperature for 15 min. The dark green reaction mixture is quenched with ice-water (300 mL), and extracted with EtOAc (2×200 mL). The combined organic extracts are washed with water (2×300 mL) and brine (1×300 mL) and dried over anhydrous Na2SO4. The oily brown residue obtained after evaporation, is purified by chromatography, (silica gel, 1:4 MeOH:CHCl3) to give the named compound as a brown oil (3.59 g, 71%).

reactant | 3-diethylamino-1-propanol | 20 mmol, 2.97 mL | C(C)N(CCCO)CC | C7H17NO
reactant | potassium tert-butoxide | 2.36 g, 1.05 equiv. | CC(C)([O-])C.[K+]
reactant | 1-fluoro-4-nitrobenzene | 2.82 g, 1 equiv. | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Diethyl-[3-(4-nitro-phenoxy)-propyl]-amine | 3.59 g, 71% | C(C)N(CCCOC1=CC=C(C=C1)[N+](=O)[O-])CC | C13H20N2O3
